Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
trauma transfer s/p fall 
 
Major Surgical or Invasive Procedure:
Repair of chin/intraoral laceration 

 
History of Present Illness:
Transfer from outside hospital for intracranial hemorrhage after 
fall from 15 feet off of ladder. Patient was brought by EMS with 
___ 15. Outside hospital workup included CT head face neck chest 
abdomen pelvis. Injuries include temporal lobe hemorrhage, nasal 
fracture, and multiple right-sided rib fractures. On arrival 
patient complains of right-sided chest pain, and facial pain. 
s/p fall, basic trauma
 
HPI Elements: Onset: Hours ago; Timing: Sudden Onset;
Location: Right chest; Quality: Stabbing
 
Review of Systems. Constitutional: negative for Fever Eyes:
negative for Vis. Changes Ear/Nose/Throat: negative for Sore
Throat Cardio-Vascular: positive for Chest Pain Skin:
negative for Rash Respiratory: negative for Cough or Dyspnea
GI: negative for Abd. Pain GU: negative for Dysuria
Musculo-Skeletal: negative for Back Pain Neurological:
positive for Headache Hem/Endo: negative for Bleeding
Immunology: negative for Joint Pain
 
 
Past Medical History:
Diabetes
HTN 
 
Social History:
___
Family History:
N/C 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Alert and Well Developed
HEENT: Several abrasions over face. Through and through
laceration over lower lip. Neck: FROM no midline tenderness
Respiratory: No Resp Distress and Normal Breath Sounds;
Right-sided chest tenderness Cardio-Vascular: No murmur and
RRR Abdomen: Non-tender and Soft; no RLQ ttp Back: No CVA
tenderness Extremity: No edema Neurological: Alert, Oriented
X3 and ___ ___ Strength Skin: Warm and Dry Psychological:
Mood/Affect Normal

DISCHARGE PHYSICAL EXAM:
Vitals: T 98.6 BP166 / 84 HR103RR18 97%Ra
General: well-appearing, NAD 
CV: rrr, no murmurs
HEENT: pupils equally reactive, full range of motion in neck, 
mmm, swelling involving right ___ laceration s/p closure 
 
Pulm: CTAB, no resp distress
Abd: soft, nontender, non-distended, no CVA tenderness 
MSK: little tenderness to palpation along right chest wall
Extremities: R thigh with superficial scratch, b/l lower 
extremities warm to touch and without edema 
Neuro: strength in upper and lower extremities ___, sensation 
grossly intact 

 
Pertinent Results:
ADMISSION LABS
___ 04:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:35PM   ___ PTT-32.5 ___
___ 04:35PM   NEUTS-87.3* LYMPHS-4.5* MONOS-7.2 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-19.20* AbsLymp-0.98* 
AbsMono-1.59* AbsEos-0.01* AbsBaso-0.05
___ 04:35PM   WBC-22.0* RBC-5.65 HGB-17.0 HCT-49.4 MCV-87 
MCH-30.1 MCHC-34.4 RDW-12.3 RDWSD-39.1
___ 04:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:35PM   ALBUMIN-4.9 CALCIUM-9.3 PHOSPHATE-3.2 
MAGNESIUM-2.2
___ 04:35PM   LIPASE-125*
___ 04:35PM   ALT(SGPT)-314* AST(SGOT)-369* CK(CPK)-401* 
ALK PHOS-134* TOT BILI-0.5
___ 04:35PM   GLUCOSE-129* UREA N-14 CREAT-0.8 SODIUM-145 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-21* ANION GAP-20*
___ 04:43PM   LACTATE-2.7*
___ 04:43PM   ___ PO2-60* PCO2-36 PH-7.39 TOTAL CO2-23 
BASE XS--2
___ 04:35PM   cTropnT-<0.01

DISCHARGE LABS
___ 05:56AM BLOOD WBC-14.0* RBC-4.67 Hgb-14.0 Hct-41.6 
MCV-89 MCH-30.0 MCHC-33.7 RDW-12.7 RDWSD-41.4 Plt ___
___ 05:56AM BLOOD Glucose-107* UreaN-14 Creat-0.7 Na-142 
K-3.9 Cl-103 HCO3-23 AnGap-16
___ 05:56AM BLOOD ALT-184* AST-164* AlkPhos-89 TotBili-0.9
___ 05:56AM BLOOD Calcium-8.2* Phos-3.6 Mg-2.0

PERTINENT IMAGING 
___ cxr 
1.  Top-normal mediastinal width is most likely due to AP 
technique and
possible underlying mediastinal lipomatosis.  Contours are 
smooth..  If there is clinical concern for aortic injury, CT can 
provide further assessment.
2.  No radiographic evidence of acute fracture.
3.  No focal consolidation.

___ CT neuro second opinion 
1. 0.9 cm anterior left temporal lobe intraparenchymal 
hemorrhage.
2. Possible nondisplaced bilateral nasal bone fractures.
3. No acute fracture or traumatic malalignment of the cervical 
spine.
 
1. Homogeneously hyperdense and thickened adrenal gland with 
surrounding stranding, concerning for traumatic adrenal 
hematoma.  Underlying lesion cannot be ruled out.  Follow up CT 
to assess resolution is recommended.
2. Focal subtle haziness of the mesentery at the right upper 
anterior abdomen could be artifactual but minor mesenteric 
injury cannot be ruled out.
3. Minimally displaced right seventh rib fracture.
 
___ CT head without contrast 
Unchanged 0.9 cm left anterior temporal lobe intraparenchymal 
hemorrhage.  No new hemorrhage.
 
Brief Hospital Course:
Mr. ___ is a ___ with HTN and diabetes who presented to ___ 
on ___ as a transfer from an outside hospital with small 
intracranial hemorrhage for further management after a fall from 
15 feet off of a ladder. Outside hospital workup included a CT 
head, face, neck, chest, abdomen, and pelvis. Injuries included 
a small temporal lobe hemorrhage, subacute b/l nasal fractures, 
and multiple right-sided rib fractures. On arrival to ___ exam 
was notable for right chest wall tenderness. Repeat CT head 
showed stable IPH.

Patient was seen by neurosurgery in the ED who recommended that 
the patient be started on keppra x 1 week for seizure 
prophylaxis in the setting of TBI. Plastic surgery was also 
consulted for nasal bone fractures and lacerations of the right 
chin and intraoral lower lip. They repaired the right chin and 
right intraoral lower lip laceration and advised the patient to 
follow a soft diet and arrange an appointment in 1 week for 
suture removal. Nasal fractures were thought to be old. The 
patient was then admitted to the ___ trauma service for pain 
management and further trauma evaluation in the setting of rib 
fracture 

Patient remained stable from a pulmonary standpoint. Vital signs 
were routinely monitored. Good pulmonary toilet, early 
ambulation and incentive spirometry were encouraged throughout 
hospitalization. Tertiary trauma survey on ___ revealed no 
other injuries of concern. 

The patient was discharged home on ___ with pain medication and 
keppra prophylaxis. At the time of discharge, the patient was 
doing well, afebrile, hemodynamically, and neurologically 
stable.  The patient was tolerating a diet, ambulating, voiding 
without assistance, and pain was well controlled.  The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.

Injuries:
-  0.9 cm left anterior temporal lobe intraparenchymal 
hemorrhage
- right chin/intraoral laceration 
- right 7th rib fracture 
- possible right adrenal hematoma

TRANSITIONAL ISSUES
===================
[]Chin laceration: instructed to follow a soft diet and 
follow-up in Plastic Surgery clinic in ___ days for suture 
removal (right chin and intraoral lower lip). Phone number 
provided. 
[]TBI: patient discharged on 1g keppra BID x 7 days with 
instructions to follow up in ___ clinic if needed 
[]HTN: patient was restarted on lisinopril 40mg daily which he 
reported that he had stopped taking a few weeks prior to 
admission 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left temporal lobe intraparenchymal hemorrhage (0.9cm) 
Traumatic Brain Injury 
Right 7th Rib fracture 
Right adrenal hematoma 
Minimally displaced bilateral nasal bone fractures and septal
fracture
Lacerations of right chin and right intraoral lower lip 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were transferred to ___ after a traumatic fall. Imaging 
revealed that you have the following injuries:

- small brain bleed 
- chin laceration 
- right 7th rib fracture 
- possible right adrenal hematoma

* Please note the following instructions in regards to your chin 
laceration, sutured by the plastic surgery team. Apply 
bacitracin to laceration twice daily, keep incision clean and 
free of crusting, avoid sun, no soaking in pools or tubs, and 
keep a soft diet for 1 week. You will need to call the number 
listed below to arrange follow up with plastic surgery and have 
your sutures removed. 

* Due to your brain bleed, you will also need to continue to 
take a medication called Keppra 1gm twice daily for a total of 7 
days to prevent seizures.  

* Your injury caused a ___ right rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

It was a pleasure taking care of you, 
Your ___ Care Team 
 
Followup Instructions:
___